US08357679B2
A: (4-Amino-3-fluorophenyl)(4-benzylpiperazin-1-yl)methanone
4-Amino-3-fluorobenzoic acid (28.4 mmol, 4.40 g), 1-benzylpiperazine (28.4 mmol, 4.93 mL, 5 g) and triethylamine (85 mmol, 11.86 mL, 8.61 g) were stirred in dichloromethane at room temperature. 1-Propanephosphonic acid cyclic anhydride (42.6 mmol, 25.2 mL, 27.1 g, 50% solution in ethyl acetate) was added and the reaction mixture stirred at room temperature for 1 hour. The reaction mixture was washed with saturated sodium bicarbonate solution and concentrated under reduced pressure to afford the title compound (7.51 g). MS (ESI) m/z 314.1 [M+H]+

reactant | 4-Amino-3-fluorobenzoic acid | 28.4 mmol, 4.40 g | NC1=C(C=C(C(=O)O)C=C1)F | C7H6FNO2
reactant | 1-benzylpiperazine | 28.4 mmol, 4.93 mL, 5 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | triethylamine | 85 mmol, 11.86 mL, 8.61 g | C(C)N(CC)CC | C6H15N
reactant | 1-Propanephosphonic acid cyclic anhydride | 42.6 mmol, 25.2 mL, 27.1 g | CCCP1(=O)OP(=O)(OP(=O)(O1)CCC)CCC | C9H21O6P3
solvent | dichloromethane | ClCCl | CH2Cl2
product | (4-Amino-3-fluorophenyl)(4-benzylpiperazin-1-yl)methanone | 7.51 g | NC1=C(C=C(C=C1)C(=O)N1CCN(CC1)CC1=CC=CC=C1)F | C18H20FN3O
